Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
___ - capsule endoscopy

 
History of Present Illness:
Mr. ___ is a ___ yo M w/ PMHx of recently diagnosed anemia 
who was admitted for work-up of GI bleed after blood had been 
found in his colon on colonoscopy ___. His story begins in 
___ when he went to ___ with leg swelling and shortness 
of breath. He was found to be anemic. His H&H in ___ was 
9.6/29.8. Previously in ___, his H&H was 14.9/44.8. The 
culprit of his anemia was believed to be secondary to high dose 
NSAID use. He had been taking ibuprofen or aleve two times a day 
since he tore his rotator cuff. He underwent rotator cuff 
surgery and he was given celecoxib afterwards as well. After 
discharge from ___, he went to his PCP who recommended 
stopping NSAIDs and starting omeprazole. He also states he has 
been taking iron for approx 3 weeks. In ___, H&H ranged from 
9.2-9.6. Iron studies revealed a low iron (17) and high TIBC 
with appropriate reticulocyte count c/w iron deficiency anemia. 
He had a colonoscopy in ___ but it was recommended that he 
undergo a repeat colonoscopy and EGD to better evaluate his iron 
deficiency anemia. His prep was uneventful until his second 
bottle of magnesium hydroxide when he started passing red liquid 
per rectum. Since his GI prep was cherry colored, he thought 
this was secondary to the prep. His only other symptoms is 
shortness of breath. He denies any melena or hematochezia. He 
denies any abdominal pain or change to his bowel movements.  
In the ED, initial VS were 97.7 60 123/83 18 100% RA. There were 
small spots of blood noted on stool. CTA revealed no active 
source of bleeding and pulmonary emboli. Transfer VS were 97.3 
68 131/88 14 99%RA.  
On arrival to the floor, patient reports that he is feeling 
fine.  

 
Past Medical History:
iron deficiency anemia 
 
Social History:
___
Family History:
- no family history of colon cancer or GI disease
 
Physical Exam:
admission:
---------
VS - 97.9 139/65 66 18 100%RA
General: NAD, A+Ox3
HEENT: anicteric sclera, mild pallor, EOMI, PERRL
Neck: supple, non-elevated JVP
CV: RRR, no m/r/g, nl s1&s2
Lungs: CTAB, no wheeze/rales/rhonchi
Abdomen: soft, NT/ND, no hsm, +BS
GU: no foley, otherwise deferred
Ext: WWP, no pitting edema, +2 pulses distally
Neuro: CN II-XII intact
Skin: no rash

discharge:
---------
VS: 98.2 110/64 83 18 100%RA
General: NAD, A+Ox3
HEENT: anicteric sclera, mild pallor, EOMI, PERRL
Neck: supple, non-elevated JVP
CV: RRR, no m/r/g, nl s1&s2
Lungs: CTAB, no wheeze/rales/rhonchi
Abdomen: soft, NT/ND, no hsm, +BS
GU: no foley, otherwise deferred
Ext: WWP, no pitting edema, +2 pulses distally
Neuro: CN II-XII intact
Skin: no rash
 
Pertinent Results:
admission:
---------

___ 02:50PM BLOOD WBC-4.7 RBC-3.67* Hgb-9.9* Hct-31.8* 
MCV-87 MCH-26.9* MCHC-31.0 RDW-13.9 Plt ___
___ 02:50PM BLOOD Neuts-45.3* Lymphs-45.6* Monos-7.1 
Eos-1.4 Baso-0.7
___ 03:08PM BLOOD ___ PTT-27.3 ___
___ 02:50PM BLOOD Glucose-90 UreaN-11 Creat-1.0 Na-140 
K-4.3 Cl-107 HCO3-27 AnGap-10
___ 07:00AM BLOOD Calcium-9.1 Phos-3.0 Mg-2.2

discharge:
--------

___ 08:15AM BLOOD WBC-3.6* RBC-3.90* Hgb-10.2* Hct-34.2* 
MCV-88 MCH-26.2* MCHC-29.9* RDW-14.2 Plt ___

imaging:
-------

___ CT Ab/P
1.  No CT evidence for small bowel mass.  Given that proximal 
loops of small
bowel are collapsed, correlation with capsule endoscopy results 
is recommended
as CT is insensitive for small, small bowel lesions.  
2.  Filling defects persist within subsegmental vascular 
branches of the
bilateral lower lobes, likely due to pulmonary emboli.  
Dedicated chest CT
examination could be performed for more complete assessment of 
extent of
thrombus.

___ Ab XR
1.  Capsule projecting over the right mid lateral abdomen, 
likely within the
ascending colon.  No evidence of bowel obstruction.

___ ballon endoscopy:
1. Erythema in stomach
2. Delayed gastric emptying
3. Lymphangiectasia in small bowel
4. ___ small ileal angioectasias (nonbleeding)

___ CT Ab/P
1.  Small bilateral segmental pulmonary emboli in the lower 
lobes.  No evidence of right heart strain.  
2.  No active extravasation of contrast within the small bowel 
and colon to suggest active bleeding.  
3.  Left renal cyst.  
4.  Small hydrocele.  

___ colonoscopy:
Grade 1 internal hemorrhoids
Fresh blood was noted throughout the colon and into the terminal 
ileum. No active source of bleeding was identified. Highly 
suspicious though for a small bowel lesion.
Otherwise normal colonoscopy to cecum and 15cm into terminal 
ileum

___ EGD: 
Normal esophagus.
Normal stomach.
Normal duodenum.

 
 
Brief Hospital Course:
___ yo M w/ hx of iron deficiency anemia orginally attributed to 
chronic NSAID use admitted after colonoscopy showed fresh blood 
in the colon into the terminal ileum suspicious for small bowel 
lesion.

# Gastrointestinal bleeding, NOS- CTA was unsuccesful at 
localization of source of bright red blood. He then underwent 
capsule endoscopy which revealed gastritis, delayed gastric 
emptying and  ileal angioectasias which may have been the source 
of his bleeding. Since the capsule ran out of battery before 
traversing his entire intestine, he underwent CT abdomen which 
was unrevealing for any source of bleeding. His H&H was trended 
and was stable and he had no episodes of hematochezia or melena 
during his hospitalization. He was started on a PPI twice daily. 


# H. pylori infection - Started on triple therapy with a PPI, 
clarithromycin, and amoxicilin.

# Pulmonary embolism - Likely source of pts SOB and unilateral 
leg swelling that prompted presentation to ___. Unprovoked 
in the absence of risk factors including recent immobilization, 
long travel with prolonged periods of being sedentary. PE was 
noted incidentally on CTA done to evaluate bleeding source. He 
was started on a heparin drip and then transitioned to lovenox.  
His H/H remained stable while on anticoagulation. He was also 
started on coumadin. He will follow up with his PCP who will 
manage his anti-coagulation. 

# Iron deficiency anemia - Likely from GIB, continued on iron 
pills. 

TRANSITIONAL ISSUES:
* f/u INR as outpatient
* f/u CBC as outpatient to ensure resolution of iron deficiency
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. Amoxicillin 1000 mg PO Q12H Duration: 10 Days 
RX *amoxicillin 500 mg 2 capsule(s) by mouth twice a day Disp 
#*40 Capsule Refills:*0
2. Clarithromycin 500 mg PO Q12H Duration: 10 Days 
RX *clarithromycin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0
3. Enoxaparin Sodium 90 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 100 mg/mL 90 mg SC q12hr Disp #*30 Syringe 
Refills:*0
4. Ferrous Sulfate 325 mg PO DAILY 
5. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
6. Warfarin 3 mg PO DAILY16 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
1. acute blood loss anemia 
2. acute gastrointestinal bleed
3. bilateral pulmonary emboli
4. iron deficiency anemia 
5. H pylori infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___. You were admitted because during your 
outpatient colonoscopy and EGD, you were found to have blood in 
your intestines. Out of concern for an acute bleed from your 
gastrointestinal tract, you were brought to the hospital for 
further evaluation. We had the GI team see you who recommended 
capsule endoscopy - this entailed swallowing a camera to get a 
look at your intestines. This revealed AVMs (arteriovenous 
malformations - or abnormal connections between your arteries 
and veins) in your intestines. AVMs are common sources of 
bleeding. 

Also, while you were here, you underwent a CT scan in an attempt 
to localize the source of your bleeding. This CT scan found 
bilateral blood clots in your lungs. These blood clots are 
called pulmonary emboli. They are likely contributing to your 
shortness of breath. We started to anticoagulate you (meaning we 
thinned your blood) as a treatment to prevent more clots from 
forming and to dissolve the ones that are present. You will do 
shots of lovenox while taking coumadin until your INR is in the 
appropriate range. Your goal INR will be between ___.

You were also started on antibiotics for a stomach infection 
called H. pylori. You will take these for a total of 10-days.

It is extremely important to follow up with your Primary Care 
Doctor ___ see below for upcoming appointments).

 
Followup Instructions:
___